US08049015B2
3-Bromo-5-bromomethyl-2-methoxy-pyridine (6.03 g, 21.5 mmol), N-bromosuccinimide (4.09 g, 23.0 mmol), and azobisisobutyronitrile (one scoop) were combined in benzene (40 mL) and stirred at 80° C. for 4 hours. After cooling, the mixture was diluted with H2O and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated to give 3-Bromo-5-dibromomethyl-2-methoxy-pyridine.

reactant | 3-Bromo-5-bromomethyl-2-methoxy-pyridine | 21.5 mmol, 6.03 g | BrC=1C(=NC=C(C1)CBr)OC | C7H7Br2NO
reactant | N-bromosuccinimide | 23.0 mmol, 4.09 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
solvent | H2O | O | H2O
product | 3-Bromo-5-dibromomethyl-2-methoxy-pyridine | BrC=1C(=NC=C(C1)C(Br)Br)OC | C7H6Br3NO
